US04673746
A suspension of 4 g of ethyl {[5-bromo-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetate in 125 ml of ethanol, 50 ml of water and 4 ml of 50% sodium hydroxide solution is refluxed for several hours, acidified with dilute hydrochloric acid and extracted with ethyl acetate. The extract is dried, the solvent is removed and the residue is recrystallized from acetonitrile to give {[5-bromo-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetic acid, mp 223°-224° C.

reactant | ethyl {[5-bromo-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetate | 4 g | BrC=1C(=CC2=C(C(=NO2)C2=C(C=CC=C2)F)C1)OCC(=O)OCC | C17H13BrFNO4
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 125 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
solvent | sodium hydroxide | 4 ml | [OH-].[Na+]
product | {[5-bromo-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetic acid | BrC=1C(=CC2=C(C(=NO2)C2=C(C=CC=C2)F)C1)OCC(=O)O | C15H9BrFNO4
